US05254558
2-[6-Oxo-2-phenyl-5-[3-(4-pyridylmethyl)ureido]-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide was subjected to a procedure similar to that described in Example 1. Chromatography, with methanol:dichloromethane (10:90) as the eluent, gave 2-[6-oxo-2-phenyl-5-[3-(4-pyridylmethyl)ureido]-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide as a white solid; NMR (DMSO/D2O): 8.58 (s,1), 8.46 (bs, 2), 7.41 (m,5), 7.27 (d,2), 4.56 (d,1), 4.37 (d,1), 4.32 (s,2), 4.00 (d,1), 2.20 (m,1), 0.79 (d,3), 0.73 (d,3); MS: m/z=531(M+1).

reactant | 2-[6-Oxo-2-phenyl-5-[3-(4-pyridylmethyl)ureido]-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide | O=C1C(=CN=C(N1CC(=O)NC(C(C(F)(F)F)O)C(C)C)C1=CC=CC=C1)NC(=O)NCC1=CC=NC=C1 | C25H27F3N6O4
solvent | methanol dichloromethane | CO.ClCCl
product | 2-[6-oxo-2-phenyl-5-[3-(4-pyridylmethyl)ureido]-1,6-dihydro-1-pyrimidinyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | O=C1C(=CN=C(N1CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C1=CC=CC=C1)NC(=O)NCC1=CC=NC=C1 | C25H25F3N6O4
